US05792557
A 2-1atmospheric hydrogenation reactor was charged with 250 g (1.26 mol) of m-nitrobiphenyl, 12.5 q of 5% Pd-Cl, and 1250 ml of ethanol. A theoretical amount of hydrogen gas was absorbed at room temperature. The catalyst was removed by filtration and the filtrate was distilled of the solvent, obtaining 212 g of m-aminobiphenyl (yield 99.9%). Another batch of reaction was effected on the same scale except that 254 g (1.28 mol) of m-nitrobiphenyl was used, obtaining 215 g of m-aminobiphenyl (yield 99.7%),

reactant | m-nitrobiphenyl | 1.26 mol, 250 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=CC=C1 | C12H9NO2
solvent | ethanol | 1250 ml | C(C)O | C2H6O
product | m-aminobiphenyl | 212 g, yield 99.9% | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
